US07887601B2
Synthesis of 2-[(3-{[(1E)-2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}pyrazolo[1,5-a]pyridin-2-yl)amino]-N,N,N-trimethylethanaminium chloride
5.83 mmol of 2-[(3-aminopyrazolo[1,5-a]pyridin-2-yl)amino]-N,N,N-trimethylethanaminium chloride hydrochloride dissolved in 30 ml of water were placed in a 100 ml one-necked round-bottomed flask. 5.83 mmol of 3-amino-2-chloro-6-methylphenol and then 17.5 mmol of sodium carbonate were added to this solution.

reactant | 2-[(3-aminopyrazolo[1,5-a]pyridin-2-yl)amino]-N,N,N-trimethylethanaminium chloride hydrochloride | 5.83 mmol | Cl.[Cl-].NC=1C(=NN2C1C=CC=C2)NCC[N+](C)(C)C
reactant | 3-amino-2-chloro-6-methylphenol | 5.83 mmol | NC=1C(=C(C(=CC1)C)O)Cl | C7H8ClNO
reactant | sodium carbonate | 17.5 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 30 ml | O | H2O
product | 2-[(3-{[(1E)-2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}pyrazolo[1,5-a]pyridin-2-yl)amino]-N,N,N-trimethylethanaminium chloride | [Cl-].NC=1\C(\C=C(C(C1Cl)=O)C)=N\C=1C(=NN2C1C=CC=C2)NCC[N+](C)(C)C | InChI=1S/C19H23ClN6O.ClH/c1-12-11-13(16(21)15(20)18(12)27)23-17-14-7-5-6-9-25(14)24-19(17)22-8-10-26(2,3)4;/h5-7,9,11H,8,10H2,1-4H3,(H2-,21,22,24,27);1H/b23-13+;
